US04514416
Synthesis of 4-amidino-2-carboxyphenyl benzoate
To a suspension of 3.0 g of 5-amidinosalicylic acid methanesulfonate in 40 ml of dried pyridine, while being cooled in ice and stirred, was added slowly 1.5 g of benzoyl chloride. The mixture was stirred for 3 hours at room temperature. The crystals gradually dissolved, forming a clear pale yellow solution, and an oily substance separated out. After addition of ethyl ether to the reaction mixture and removal of the supernatant, the oily substance was washed several times with ethyl ether and dissolved in water. Upon addition of a saturated aqueous sodium hydrogencarbonate solution, pale yellow crystals precipitated. After cooling in ice, the crystals were collected by filtration, washed with a small volume of water, and dried to obtain 1.0 g of the crystals. The crystals were suspended in a small volume of methanol and allowed to dissolve by the addition of 0.4 g of methanesulfonic acid. Ethyl ether was added to the solution with stirring to obtain 0.8 g of a colorless powder of 4-amidino-2-carboxyphenyl benzoate methanesulfonate.

reactant | methanol | CO | CH4O
reactant | methanesulfonic acid | 0.4 g | CS(=O)(=O)O | CH4O3S
reactant | 4-amidino-2-carboxyphenyl benzoate methanesulfonate | CS(=O)(=O)O.C(C1=CC=CC=C1)(=O)OC1=C(C=C(C=C1)C(N)=N)C(=O)O
solvent | Ethyl ether | C(C)OCC | C4H10O
product | 4-amidino-2-carboxyphenyl benzoate | 0.8 g | C(C1=CC=CC=C1)(=O)OC1=C(C=C(C=C1)C(N)=N)C(=O)O | C15H12N2O4
